US05521175
1. 2-(N-tert-Butyloxycarbonylamino)-2'-nitroacetophenone
To a stirred mixture of finely powdered hexamethylenetetromine (12.7 g) in anhydrous chlorobenzene (80 ml) was added via cannula a solution of 2-bromo-2'-nitroacetophenone (20 g) in anhydrous chlorobenzene (80 ml) over 5 minutes, under a nitrogen atmosphere. The resulting mixture was heated to 50°-57° C. for 4 hours before it was allowed to cooled to room temperature overnight. The precipitated solid was collected by filtration and it was washed with absolute ethanol (1×70 ml and 1×25 ml) and diethyl ether (1×200 ml). This pale yellow powder was added portionwise to a mixture of 95% ethanol (75 ml) and concentrated hydrochloric acid (35 ml) over 2 minutes and the resulting suspension was stirred at room temperature for 22 hours. After being cooled to 5° C., the solid was collected by filtration, washed with diethyl ether (2×50 ml) and dried under high vacunm for 45 minutes. The white solid thus obtained was suspended in anhydrous dichloromethane (500 ml) and treated with anhydrous triethylamine (6 ml) before di-tert-butyl dicarbonate (25.5 g) was added in one portion. Additional anhydrous triethylamine (10 ml) was then added and the mixture was stirred at room temperature for 45 minutes, under nitrogen. The reaction mixture was washed with 10% aqueous citric acid (1×100 ml and 1×70 ml), water (1×100 ml), brine (1×100 ml), dried (MgSO4) and concentrated Flash chromatography (silica gel, hexane-ethyl acetate, 60:40) of the residue gave the title compound (12.25 g) as a yellow oil which solidifies on standing; δH (250 MHz, CDCl3) 8.17 (1H, dd, J=8.2 and 0.9 Hz, Ar--H), 7.76 (1H, dt, J=7.4 and 1.1 Hz, Ar--H), 7.64 (1H, dt, J=8.2 and 1.6 Hz, Ar--H), 7.51 (1H, br d, J=7.4 HZ, Ar--H), 5.25 (1H, br s, --NH--), 4.33 (2H, d, J=5.6 Hz, --CH2 --), 1.40 (9H, s, t-Bu); m/z (CI)280 (M-).

reactant | 2-bromo-2'-nitroacetophenone | 20 g | BrCC(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 25.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
solvent | chlorobenzene | 80 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 80 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 2-(N-tert-Butyloxycarbonylamino)-2'-nitroacetophenone | 12.25 g | C(C)(C)(C)OC(=O)NCC(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C13H16N2O5
